US04032322
A mixture of 13.7 g of methanesulfonyl chloride in 25 ml of dimethylformamide was stirred at room temperature for about 16 hours. Into the mixture was stirred 11 g of 5-amino-4-cyano-3-propoxyisothiazole which addition caused an exothermic reaction. The mixture was concentrated under reduced pressure and the residue was recrystallized from ethanol to give 2.7 g of crystalline N'-(4-cyano-3-propoxy-5-isothiazolyl)-N,N-dimethylformamidine, m.p. 117°-118°. The nmr spectrum was consistent with the assigned structure.

reactant | methanesulfonyl chloride | 13.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-amino-4-cyano-3-propoxyisothiazole | 11 g | NC1=C(C(=NS1)OCCC)C#N | C7H9N3OS
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N'-(4-cyano-3-propoxy-5-isothiazolyl)-N,N-dimethylformamidine | 2.7 g | C(#N)C=1C(=NSC1N=CN(C)C)OCCC | C10H14N4OS
